US08168794B2
A solution of 2,6-difluorobenzothioamide (1.0 eq) and ethylbromopyruvate (1.0 eq.) in ethanol (1.0 M) was heated in the microwave at 130° C. for 30 minutes. Upon removal of volatiles in vacuo, ethyl acetate was added and the solution was washed with Na2CO3(sat.), with NaCl(sat.), was dried over MgSO4, filtered and concentrated yielding ethyl 2-(2,6-difluorophenyl)thiazole-4-carboxylate (84%). LCMS (m/z): 270.1 (MH+); LC Rt=3.79 min.

reactant | 2,6-difluorobenzothioamide | 1.0 eq | FC1=C(C(N)=S)C(=CC=C1)F | C7H5F2NS
reactant | ethylbromopyruvate | 1.0 eq. | C(C)C(C(C(=O)[O-])=O)Br
reactant | ethanol | 1.0 M | C(C)O | C2H6O
product | ethyl 2-(2,6-difluorophenyl)thiazole-4-carboxylate | 84% | FC1=C(C(=CC=C1)F)C=1SC=C(N1)C(=O)OCC | C12H9F2NO2S
